US09260460B2
(S)-methyl 3-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)-2-(trifluoromethylsulfonamido)propanoate
A solution of triflic anhydride (0.934 g, 3.3.1 mmol) in dichloromethane (3.31 mL) was added dropwise to a solution of (2S)-3-(4-hydroxyphenyl)-1-methoxy-1-oxopropan-2-aminium chloride (0.767 g, 3.31 mmol) and triethylamine (1.005 g, 9.93 mmol) in dichloromethane (12.79 mL) at −78° C. The mixture was stirred for 24 h at room temperature. Water (5 mL) was added and the pH was adjusted to pH=5 using 32% hydrochloric acid. The aqueous layer was extracted with diethyl ether. The organics extracts were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. Purification by column chromatography (diethyl ether) afforded the title compound as yellow solid (0.704 g, 49%).

reactant | triflic anhydride | 0.934 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | (2S)-3-(4-hydroxyphenyl)-1-methoxy-1-oxopropan-2-aminium chloride | 3.31 mmol, 0.767 g | [Cl-].OC1=CC=C(C=C1)C[C@@H](C(=O)OC)[NH3+]
reactant | triethylamine | 9.93 mmol, 1.005 g | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 3.31 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 12.79 mL | ClCCl | CH2Cl2
solvent | Water | 5 mL | O | H2O
product | (S)-methyl 3-(4-(((trifluoromethyl)sulfonyl)oxy)phenyl)-2-(trifluoromethylsulfonamido)propanoate | 0.704 g, 49% | FC(S(=O)(=O)OC1=CC=C(C=C1)C[C@@H](C(=O)OC)NS(=O)(=O)C(F)(F)F)(F)F | C12H11F6NO7S2
